US06720324B2
(4R)-N-{3-[4-(3-AMINOPHENYL)-1-PIPERIDINYL]PROPYL}-4-(3,4-DIFLUOROPHENYL)-6-(METHOXYMETHYL)-2-OXO-1,2,3,4-TETRAHYDRO-5-PYRIMIDINECARBOXAMIDE:
A mixture of (4R)-4-(3,4-difluorophenyl)-6-(methoxymethyl)-N-[3-(4-(3-nitrophenyl)-3,6-dihydro-1(2H)-pyridinyl)propyl]-2-oxo-1,2,3,4-tetrahydro-5-pyrimidinecarboxamide, 10% Pd/C in ethanol was hydrogenated (balloon method) for 2 days. The reaction mixture was filtered through Celite 545, washed with ethanol and concentrated to give the desired product.

reactant | (4R)-4-(3,4-difluorophenyl)-6-(methoxymethyl)-N-[3-(4-(3-nitrophenyl)-3,6-dihydro-1(2H)-pyridinyl)propyl]-2-oxo-1,2,3,4-tetrahydro-5-pyrimidinecarboxamide | FC=1C=C(C=CC1F)[C@H]1NC(NC(=C1C(=O)NCCCN1CCC(=CC1)C1=CC(=CC=C1)[N+](=O)[O-])COC)=O | C27H29F2N5O5
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | (4R)-N-{3-[4-(3-AMINOPHENYL)-1-PIPERIDINYL]PROPYL}-4-(3,4-DIFLUOROPHENYL)-6-(METHOXYMETHYL)-2-OXO-1,2,3,4-TETRAHYDRO-5-PYRIMIDINECARBOXAMIDE | NC=1C=C(C=CC1)C1CCN(CC1)CCCNC(=O)C=1[C@H](NC(NC1COC)=O)C1=CC(=C(C=C1)F)F | C27H33F2N5O3
